US08022223B2
tert-butyl 4-((2-(5-(3-methoxy-3-oxopropylthio)-3-phenoxypyridin-2-ylamino)thiazol-4-yl)methyl)piperidine-1-carboxylate
The atmosphere above a mixture of tert-butyl 4-((2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)methyl)piperidine-1-carboxylate (1.52 g, 2.79 mmol), N-ethyl-N-isopropylpropan-2-amine (0.971 mL, 5.57 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.161 g, 0.279 mmol), and dioxane (25 mL) was purged with nitrogen. Methyl 3-mercaptopropanoate (0.332 mL, 3.07 mmol) and Pd2dba3 (0.128 g, 0.139 mmol) were added, and the reaction was heated at 95° C. overnight. The reaction was cooled to ambient temperature and filtered through celite. The filtrate was concentrated and purified by MPLC (Biotage) eluting with 3:2 hexane:ethyl acetate to afford the title compound (1.54 g, 94.5% yield) as a tacky white solid: 1H NMR (CDCl3) δ 8.70 (s, 1H), 8.16 (s, 1H), 7.40 (t, 2H), 7.24 (t, 1H), 7.14 (s, 1H), 7.06 (d, 2H), 6.46 (s, 1H), 4.08 (m, 2H), 3.65 (s, 3H), 2.99 (t, 2H), 2.67 (m, 2H), 2.56 (d, 2H), 2.55 (t, 2H), 1.85 (m, 1H), 1.66 (m, 2H), 1.45 (s, 9H), 1.16 (m, 2H).

reactant | tert-butyl 4-((2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)methyl)piperidine-1-carboxylate | 2.79 mmol, 1.52 g | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CC1CCN(CC1)C(=O)OC(C)(C)C)OC1=CC=CC=C1 | C25H29BrN4O3S
reactant | N-ethyl-N-isopropylpropan-2-amine | 5.57 mmol, 0.971 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.279 mmol, 0.161 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | Methyl 3-mercaptopropanoate | 3.07 mmol, 0.332 mL | SCCC(=O)OC | C4H8O2S
catalyst | Pd2dba3 | 0.139 mmol, 0.128 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-((2-(5-(3-methoxy-3-oxopropylthio)-3-phenoxypyridin-2-ylamino)thiazol-4-yl)methyl)piperidine-1-carboxylate | 1.54 g, 94.5% yield | COC(CCSC=1C=C(C(=NC1)NC=1SC=C(N1)CC1CCN(CC1)C(=O)OC(C)(C)C)OC1=CC=CC=C1)=O | C29H36N4O5S2
